US08809336B2
A 4M solution of HCl in dioxane (0.68 ml, 2.7 mmol) was added dropwise to a solution of 4-tert-butoxycarbonylamino-4-(4-chloro-benzyloxymethyl)-piperidine-1-carboxylic acid tert-butyl ester (12 mg, 0.028 mmol) in methanol (1 mL). The solution was stirred at rt for 17 h. The solvents were removed by evaporation to give 4-(4-chloro-benzyloxymethyl)-piperidin-4-ylamine dihydrochloride (9.2 mg, 0.028 mmol, 100%) that was used in the next step without further purification. 1H NMR (500 MHz, CD3OD): 2.12-2.24 (4H, m), 3.22-3.32 (2H, m), 3.42-3.45 (2H, m), 3.75 (2H, s), 4.66 (2H, s), 7.38-7.43 (4H, m).

reactant | HCl | Cl | ClH
reactant | dioxane | 2.7 mmol, 0.68 ml | O1CCOCC1 | C4H8O2
reactant | 4-tert-butoxycarbonylamino-4-(4-chloro-benzyloxymethyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.028 mmol, 12 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(COCC1=CC=C(C=C1)Cl)NC(=O)OC(C)(C)C | C23H35ClN2O5
solvent | methanol | 1 mL | CO | CH4O
product | 4-(4-chloro-benzyloxymethyl)-piperidin-4-ylamine dihydrochloride | 0.028 mmol, 9.2 mg, 100% | Cl.Cl.ClC1=CC=C(COCC2(CCNCC2)N)C=C1 | InChI=1S/C13H19ClN2O.2ClH/c14-12-3-1-11(2-4-12)9-17-10-13(15)5-7-16-8-6-13;;/h1-4,16H,5-10,15H2;2*1H
